US07982036B2
To a solution of dimethylaminocrotonic acid hydrochloride (0.120 g, 0.72 mmol) in CH3CN (1.4 mL) was added DMF (1 drop) followed by oxalyl chloride (0.07 mL, 0.91 mmol) at 0° C. under nitrogen atmosphere. The reaction was allowed to stir at this temperature for 30 min and then at rt for 2 h. This acid chloride was added, drop wise, at 0° C. in to a stirred solution of N4-(6-(methylamino)pyridine-2-yl)-N6-(4-phenoxyphenyl)pyrimidine-4,6-diamine (0.07 g, 0.18 mmol) in NMP (2.8 mL). The reaction was allowed to stir at 0° C. for 1 h, diluted with EtOAc (5 mL), and washed with 10% NaHCO3 (2 mL), water (2 mL) and brine (2 mL). drying over Na2SO4 followed by concentration under reduced pressure gave a residue which was further purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to give (E) -4-(dimethylamino)-N-methyl-N-(6-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyridine-2-yl)but-2-enamide (I-79) as a yellow solid. 1H NMR (DMSO-d6) δ ppm: 2.05 (s, 6H), 2.91 (d, J=6 Hz, 2H), 3.27 (s, 3H), 6.08 (d, J=15.2 Hz, 1H), 6.65 (dd, J=5.6 & 14.8 Hz, 1H), 6.82 (d, J=7.6 Hz, 1H), 6.97-7.00 (m, 4H), 7.10 (t, J=7.2 Hz, 1H), 7.20 (s, 1H), 7.35-7.39 (m, 2H), 7.46 (d, J=8 Hz, 1H), 7.53 (d, J=8.8 Hz, 2H), 7.75 (t, J=8 Hz, 1H), 8.30 (s, 1H), 9.30 (s, 1H), 9.95 (s, 1H); LCMS: m/e 496 (M+1).

reactant | dimethylaminocrotonic acid hydrochloride | 0.72 mmol, 0.120 g | Cl.CN(C)/C(/C(=O)O)=C\C
reactant | oxalyl chloride | 0.91 mmol, 0.07 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N4-(6-(methylamino)pyridine-2-yl)-N6-(4-phenoxyphenyl)pyrimidine-4,6-diamine | 0.18 mmol, 0.07 g | CNC1=CC=CC(=N1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H20N6O
reactant | NMP | 2.8 mL | CN1CCCC1=O | C5H9NO
solvent | CH3CN | 1.4 mL | CC#N | C2H3N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (E) -4-(dimethylamino)-N-methyl-N-(6-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyridine-2-yl)but-2-enamide | CN(C/C=C/C(=O)N(C1=NC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)C)C | C28H29N7O2
